US08278441B2
N-((4aR,6R,7aS)-7a-(3′-Methoxybiphenyl-3-yl)-6-(methoxymethoxy)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide
To a stirred 0° C. solution of N-((4aR,6R,7aS)-6-hydroxy-7a-(3′-methoxybiphenyl-3-yl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide (0.087 g, 0.190 mmol) in anhydrous dichloromethane (0.6 mL) is added chloromethoxymethane (0.031 g, 0.379 mmol), followed by diisopropylethylamine (0.049 g, 0.379 mmol). The resulting mixture is stirred at 0° C. for 1 hour, and then is warmed to room temperature over 24 h. The mixture is diluted with dichloromethane, quenched by addition of saturated aqueous solution of sodium bicarbonate, and is extracted three times with dichloromethane. The combined organic layers are washed with water and brine. The organic layer is dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product is purified by silica gel chromatography eluting with a linear gradient of 0% to 60% ethyl acetate in hexanes over 26 minutes to give the title compound (0.089, 93%). ES/MS m/e: 503 (M+1).

reactant | N-((4aR,6R,7aS)-6-hydroxy-7a-(3′-methoxybiphenyl-3-yl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide | 0.190 mmol, 0.087 g | O[C@@H]1C[C@@H]2[C@@](N=C(SC2)NC(C2=CC=CC=C2)=O)(C1)C=1C=C(C=CC1)C1=CC(=CC=C1)OC | C27H26N2O3S
reactant | chloromethoxymethane | 0.379 mmol, 0.031 g | ClCOC | C2H5ClO
reactant | diisopropylethylamine | 0.379 mmol, 0.049 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 0.6 mL | ClCCl | CH2Cl2
product | N-((4aR,6R,7aS)-7a-(3′-Methoxybiphenyl-3-yl)-6-(methoxymethoxy)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide | 93% | COC=1C=C(C=CC1)C1=CC(=CC=C1)[C@@]12N=C(SC[C@@H]1C[C@H](C2)OCOC)NC(C2=CC=CC=C2)=O | C29H30N2O4S
